US05439909
Add 2 g (8.5 mmol) of ethyl 6-ethyl-2,3-dihydro-1,4-benzodioxin-2-carboxylate dissolved in 5 cm3 of anhydrous methylene chloride to a mixture at 0° C. of 0.042 g (0.42 mmol) of chromium trioxide and 5.35 g (59.3 mmol) of 70% tert-butyl hydroperoxide in 30 cm3 of methylene chloride. Stir for 2 hours at 0° C. and then for 72 hours at room temperature. The crude product obtained by concentrating to dryness is purified by chromatography on a silica column (eluant: methylene chloride). Ethyl 6-acetyl-2,3-dihydro-1,4-benzodioxin-2-carboxylate is thereby obtained in a yield of 62%. Melting point: 60° C.

reactant | ethyl 6-ethyl-2,3-dihydro-1,4-benzodioxin-2-carboxylate | 8.5 mmol, 2 g | C(C)C1=CC2=C(OC(CO2)C(=O)OCC)C=C1 | C13H16O4
reactant | tert-butyl hydroperoxide | 59.3 mmol, 5.35 g | C(C)(C)(C)OO | C4H10O2
solvent | methylene chloride | 5 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 cm3 | C(Cl)Cl | CH2Cl2
catalyst | chromium trioxide | 0.42 mmol, 0.042 g | [O-2].[O-2].[O-2].[Cr+6]
product | Ethyl 6-acetyl-2,3-dihydro-1,4-benzodioxin-2-carboxylate | yield of 62% | C(C)(=O)C1=CC2=C(OC(CO2)C(=O)OCC)C=C1 | C13H14O5
